US07608639B2
3-{2-Methyl-4-[3-(2′-trifluoromethoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared according to Example 89 by using 2-trifluoromethoxyphenyl boronic acid and 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester to afford about 94 mg (58%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C30H22O5F6 576, found 577 (M+1, 100%).

reactant | 2-trifluoromethoxyphenyl boronic acid | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4
product | 3-{2-Methyl-4-[3-(2′-trifluoromethoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F)CCC(=O)O | C30H22F6O5
